US07488844B2
(iii) Ethyl(2S)-2-ethoxy-3-[4-(2-{ethyl[4-(trifluoromethoxy)benzyl]amino}-2-oxoethoxy)phenyl]propanoate
To a solution of N-ethyl-N-[4-(trifluoromethoxy)benzyl]amine (0.438 g, 2.00 mmol) and {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid (0.593 g, 2.00 mmol) in methylene chloride (20 mL) were added N,N-diisopropylethylamine (0.80 mL, 4.6 mmol) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.674 g, 2.10 mmol) and the reaction mixture was stirred at room temperature overnight. The resulting solution was diluted with methylene chloride (40 mL) and the organic phase was washed with 5% HCl (50 mL), saturated aqueous NaHCO3 (50 mL), and brine (50 mL), dried over Na2SO4, and concentrated in vacuo. Purification on a prepacked column of silica gel (Isolute® SPE Column, 50 g/150 mL) with methylene chloride/ethyl acetate 10:1 as the eluent yielded 0.57 g (58%) of a colourless oil.

reactant | N-ethyl-N-[4-(trifluoromethoxy)benzyl]amine | 2.00 mmol, 0.438 g | C(C)NCC1=CC=C(C=C1)OC(F)(F)F | C10H12F3NO
reactant | {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid | 2.00 mmol, 0.593 g | C(C)O[C@@H](CC1=CC=C(OCC(=O)O)C=C1)C(=O)OCC | C15H20O6
reactant | N,N-diisopropylethylamine | 4.6 mmol, 0.80 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 2.10 mmol, 0.674 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(2S)-2-ethoxy-3-[4-(2-{ethyl[4-(trifluoromethoxy)benzyl]amino}-2-oxoethoxy)phenyl]propanoate | 0.57 g, 58% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OCC(=O)N(CC1=CC=C(C=C1)OC(F)(F)F)CC | C25H30F3NO6
